US07605289B2
Thionyl chloride (45 mL, 622.5 mmol) was slowly added to a solution of 4-hydroxy-4-(3-pyridyl)cyclohexanone ethylene ketal (prepared as in step a, 29.3 g, 124.5 mmol) in pyridine (250 mL) at −10° C. After stirring at 0° C. for 2.5 h, the reaction mixture was poured onto ice and adjusted to pH 8 with 2 N NaOH. The aqueous layer was extracted with CH2Cl2 (100 mL×3) and the combined organic layers were washed with brine (200 mL), dried with MgSO4, and concentrated in vacuo to afford crude 4-(3-pyridyl)cyclohex-3-en-1-one ethylene ketal, which was used without further purification.

reactant | Thionyl chloride | 622.5 mmol, 45 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxy-4-(3-pyridyl)cyclohexanone ethylene ketal | C1COC2(CCC(CC2)(C=2C=NC=CC2)O)O1 | C13H17NO3
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | pyridine | 250 mL | N1=CC=CC=C1 | C5H5N
product | 4-(3-pyridyl)cyclohex-3-en-1-one ethylene ketal | C1COC2(CC=C(CC2)C=2C=NC=CC2)O1 | C13H15NO2
